US06403595B1
To a solution of oxalyl chloride (0.70 ml) in dichloromethane (60 ml) was added dropwise at −70° C. a solution of dimethylsulfoxide (0.85 ml) in dichloromethane (10 ml). Ten minutes later, to the mixture was added dropwise a solution of 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-4-[4-(hydroxymethyl)benzenesulfonyl]-2-piperazinone (1.87 g) in dichloromethane (20 ml), and the mixture was stirred at about −65° C. for 1 hour. To the mixture was added triethylamine (2.79 ml), and the mixture was stirred at −60° C. to −30° C. for 2 hours. The reaction solution was diluted with dichloromethane, washed with water and saturated brine, dried and concentrated, and the the residue was purified with silica gel column chromatography (ethyl acetate). Precipitated crystals were washed with ether to give colorless crystals of 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-4-[4-formylbenzenesulfonyl]-2-piperazinone (2.02 g).

reactant | oxalyl chloride | 0.70 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.85 ml | CS(=O)C | C2H6OS
reactant | 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-4-[4-(hydroxymethyl)benzenesulfonyl]-2-piperazinone | 1.87 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)CO)=O | C22H33N3O6S
reactant | triethylamine | 2.79 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-4-[4-formylbenzenesulfonyl]-2-piperazinone | 2.02 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C=O)=O | C22H31N3O6S
